US08975254B2
1H-Imidazole-4-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide
The title compound was prepared as in Example 12 starting from 4-imidazolecarboxylic acid and 2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylamine hydrochloride. The crude product was purified by flash chromatography using CH2Cl2/MeOH as a gradient eluent (100:0-99.6:0.4). The product was triturated in ethyl acetate. 1H NMR (400 MHz, DMSO-d6): 2.93 (21-1, t), 3.55 (2H, m), 6.33 (1H, d), 7.01 (1H, d), 7.59 (1H, s), 7.63 (2H, s), 7.71 (1H, s), 7.87 (1H, s), 8.05 (1H, broad s), 12.43 (1H, broad s).

reactant | 4-imidazolecarboxylic acid | N1C=NC(=C1)C(=O)O | C4H4N2O2
reactant | 2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCN
product | 1H-Imidazole-4-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C=1N=CNC1 | C16H13Cl2N3O2
